US04590271
B. 2,4-Diamino-5-(1-methyl-3-indolylmethyl)pyrimidine
To 100 mL of an ethanolic guanidine solution prepared from 2.10 g (0.022 mole) of guanidine hydrochloride and 1.20 g (0.022 mole) of sodium methoxide was added 5.00 g (0.017 mole) of 3-anilino-2-(1-methyl-3-indolylmethyl)acrylonitrile. The solution was heated under reflux for 1/2 hour and then 100 mL of 2-methoxyethanol was added. The internal temperature was allowed to gradually increase to 120° by distillation of the ethanol, after which it was heated at this temperature for 4.75 hr. The reaction was cooled and the solvent was removed in vacuo. The residue was recrystallized from 95% ethanol to give two crops of the title compound (total 1.82 g, 41%) mp 253°-256° dec. Anal. Calcd for C14H15N5 : C, 66.38, H, 5.97; N, 27.65. Found: C, 66.05; H, 6.04; N, 27.89.

reactant | guanidine | 100 mL | NC(=N)N | CH5N3
reactant | guanidine hydrochloride | 0.022 mole, 2.10 g | Cl.NC(=N)N
reactant | sodium methoxide | 0.022 mole, 1.20 g | C[O-].[Na+]
reactant | 3-anilino-2-(1-methyl-3-indolylmethyl)acrylonitrile | 0.017 mole, 5.00 g | N(C1=CC=CC=C1)C=C(C#N)CC1=CN(C2=CC=CC=C12)C | C19H17N3
solvent | ethanol | C(C)O | C2H6O
solvent | 2-methoxyethanol | 100 mL | COCCO | C3H8O2
product | 2,4-Diamino-5-(1-methyl-3-indolylmethyl)pyrimidine | 1.82 g, 41% | NC1=NC=C(C(=N1)N)CC1=CN(C2=CC=CC=C12)C | C14H15N5
